US04889410
3,3-Diisobutyl-2-formylmethylene-1-methylindole.
To 10 mL of dry dimethylformamide in a flask cooled with an ice bath was added dropwise with stirring phosphoryl chloride (1.76 g, 0.0115 mole). After a few minutes 3,3-diisobutyl-1,2-dimethyl-(3H)-indolium iodide (3.85 g, 0.01 mole) was added portionwise over 5 min. The resulting solution was allowed to stir at room temperature for at least 3 hours. This solution was then slowly poured into 250 mL of water stirring in a beaker. After a few minutes 3,3-diisobutyl-2-dimethylaminovinyl-1-methyl-(3H)-indolium iodide separated as its monohydrate via elemental analysis and NMR of a small sample which was removed. This aqueous suspension was then heated to boiling with stirring to dissolve this intermediate product giving a yellow solution with a little purple scum floating on the top. A little Norit was added and after a minute or so the solution was filtered. The yellow filtrate was made strongly basic with 20% sodium hydroxide solution and stirred with warming at 50°-60° C. for a few minutes. The formylmethylene product separated and slowly became crystalline. After cooling to room temperature, the product was filtered, washed well with water, and dried to give 2.3 g (80.6%). The IR and NMR were good. (MW 285.43)

reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | phosphoryl chloride | 0.0115 mole, 1.76 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3,3-diisobutyl-1,2-dimethyl-(3H)-indolium iodide | 0.01 mole, 3.85 g | [I-].C(C(C)C)C1(C(=[N+](C2=CC=CC=C12)C)C)CC(C)C
reactant | Norit | C | CH4
solvent | water | 250 mL | O | H2O
product | 3,3-Diisobutyl-2-formylmethylene-1-methylindole | C(C(C)C)C1(C(N(C2=CC=CC=C12)C)=CC=O)CC(C)C | C19H27NO
